US09303041B2
N-[2-Methyl-10-(4-methyl-piperazin-1-yl)-4H-3-thia-4,9-diaza-benzo[f]azulen-7-ylmethyl]-succinamic acid methyl ester
To a solution of (2-methyl-4-(4-methylpiperazin-1-yl)-10H-benzo[b]thieno[2,3-e][1,4]diazepin-7-yl)methanamine, prepared as described in Example 3, (40 mg, 0.12 mmol) in dichloromethane (2 mL) was added triethylamine (0.030 mL, 0.22 mmol) and succinic acid 2,5-dioxo-pyrrolidin-1-yl ester methyl ester, prepared as described in the previous step, (31 mg, 0.13 mmol). The solution was stirred at room temperature for 1 hour and concentrated. The crude was loaded onto a silica column, eluted with 3-5% methanol/dichloromethane containing ammonium hydroxide to give the title compound as a yellow solid. LC-MS: m/z 456 (M+1).

reactant | (2-methyl-4-(4-methylpiperazin-1-yl)-10H-benzo[b]thieno[2,3-e][1,4]diazepin-7-yl)methanamine | CC1=CC2=C(NC3=C(N=C2N2CCN(CC2)C)C=C(C=C3)CN)S1 | C18H23N5S
reactant | triethylamine | 0.22 mmol, 0.030 mL | C(C)N(CC)CC | C6H15N
reactant | succinic acid 2,5-dioxo-pyrrolidin-1-yl ester methyl ester | COC(CCC(=O)ON1C(CCC1=O)=O)=O | C9H11NO6
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | N-[2-Methyl-10-(4-methyl-piperazin-1-yl)-4H-3-thia-4,9-diaza-benzo[f]azulen-7-ylmethyl]-succinamic acid methyl ester | COC(CCC(=O)NCC1=CC2=C(NC=3SC(=CC3C(=N2)N2CCN(CC2)C)C)C=C1)=O | C23H29N5O3S
